US06133315
d) 3-[(2-Chlorophenoxy)methyl]-[[(1-acetimidoyl)piperidin-4-yl]methoxy]benzene Acetic Acid Salt
To 40 mg (0.109 mmol) of 1-[(2-chlorophenoxy)methyl]-3-[(piperidin-4-yl)methoxy]benzene hydrochloride as prepared in the preceding step, in 1 mL of N,N-dimethylformamide containing 100 μL (0.908 mmol) of N,N-diisopropylethylamine was added 40 mg (0.325 mmol) of ethyl acetimidate hydrochloride. The reaction mixture was stirred at ambient temperature for 3 days. The reaction mixture was concentrated in vacuo and the residue was quenched with 1 N sodium hydroxide, extracted into methylene chloride, dried (K2CO3), and concentrated. The residue was dissolved with 1 mL of methylene chloride and then treated with 500 μL of glacial acetic acid. The solution was then applied directly to preparative thin layer chromatography using methylene chloride/methanol/glacial acetic (83:15:2) as developing solvent to provide 33.8 mg of the title compound as a gum. 1H-NMR (300 MHz, DMSO-d6) δ 7.45 (dd, 1 H, J=1.5, 7.9 Hz), 7.27-7.34 (m, 2 H), 7.20-7.23 (dd, 1 H, J=1.4, 8.3 Hz) 6.89-7.04 (m, 4 H), 5.76 (s, 2 H), 4.07 (d, 2 H, J=14 Hz), 3.87 (d, 2 H, J=6.2 Hz), 3.05 (t, 2 H, J=13 Hz), 2.22 (s, 3 H), 2.05-2.13 (m, 1 H), 1.85 (d, 2 H), 1.71 (br s, 3 H), and 1.18-1.38 (m, 2 H). Mass spectrum (MALDI-TOF; α-cyano-4-hydroxycinnamic acid matrix matrix) calcd. for C21H25N2O2 : 373.2 (M+H). Found: 373.0.

reactant | 1-[(2-chlorophenoxy)methyl]-3-[(piperidin-4-yl)methoxy]benzene hydrochloride | 0.109 mmol, 40 mg | Cl.ClC1=C(OCC2=CC(=CC=C2)OCC2CCNCC2)C=CC=C1
reactant | N,N-dimethylformamide | 0.908 mmol, 1 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetimidate hydrochloride | 0.325 mmol, 40 mg | Cl.C(C)(OCC)=N
product | 3-[(2-Chlorophenoxy)methyl]-[[(1-acetimidoyl)piperidin-4-yl]methoxy]benzene Acetic Acid Salt | 33.8 mg | C(C)(=O)O.ClC1=C(OCC=2C=C(C=CC2)OCC2CCN(CC2)C(C)=N)C=CC=C1 | InChI=1S/C21H25ClN2O2.C2H4O2/c1-16(23)24-11-9-17(10-12-24)14-25-19-6-4-5-18(13-19)15-26-21-8-3-2-7-20(21)22;1-2(3)4/h2-8,13,17,23H,9-12,14-15H2,1H3;1H3,(H,3,4)
